US03980795
A solution of 32.1 g of 3-chloro-3-(4'-fluoro-4-biphenylyl)-butyric acid ethyl ester (obtainable from the hydroxy ester and SOCl2), 15 g of hydrazine sulfate and 20.5 g of sodium ethylate in 500 ml of absolute ethanol is boiled for 2 hours and the solvent is evaporated. Working up gives 3-(4'-fluoro-4-biphenylyl)-3-methyl-pyrazolidin-5-one, m.p. 194°-196°.

reactant | 3-chloro-3-(4'-fluoro-4-biphenylyl)-butyric acid ethyl ester | 32.1 g | C(C)OC(CC(C)(C1=CC=C(C=C1)C1=CC=C(C=C1)F)Cl)=O | C18H18ClFO2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | hydrazine sulfate | 15 g | S(=O)(=O)(O)O.NN
reactant | sodium ethylate | 20.5 g | CC[O-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-(4'-fluoro-4-biphenylyl)-3-methyl-pyrazolidin-5-one | FC1=CC=C(C=C1)C1=CC=C(C=C1)C1(NNC(C1)=O)C | C16H15FN2O
